US07323464B2
3-Phenyl-piperazin-2-one
Methyl bromophenyl acetate (25 g, 109 mmol) and ethylene diamine (13.1 g, 218 mmol) were mixed in dry MeOH (180 mL) and stirred at room temperature for 15 minutes under nitrogen. Sodium methoxide (6.5 g, 120 mmol) was added in one portion and the mixture heated to reflux for 3.5 hr. The mixture was left stirring overnight at room temperature. The solvent was evaporated in vacuo to give a pale yellow gum, which was partitioned between water (100 mL) and chloroform (100 mL), the pH of the aqueous phase was adjusted with 2M HCl to pH 7.5 and extracted with more chloroform (100 mL). The combined organic phases were dried (MgSO4) and evaporated to give the title compound as a pale yellow solid (17 g, 89%).

reactant | Methyl bromophenyl acetate | 109 mmol, 25 g | COC(=O)C(C1=CC=CC=C1)Br | C9H9BrO2
reactant | ethylene diamine | 218 mmol, 13.1 g | C(CN)N | C2H8N2
reactant | Sodium methoxide | 120 mmol, 6.5 g | C[O-].[Na+]
solvent | MeOH | 180 mL | CO | CH4O
product | 3-Phenyl-piperazin-2-one | 17 g, 89% | C1(=CC=CC=C1)C1C(NCCN1)=O | C10H12N2O
